US06221914B1
Trifluoromethanesulfonic acid 6-cyano -naphthalen-2-yl ester
A flame dried flask equipped with a stir bar and rubber septum was charged with dry dichlorornethane (35 mL) and 6-cyano-2-naphthol (3.00 g, 17.73 mmol) fromn Example 94 under an argon atmosphere. To this mixture was added pyridine (7.17 mL, 88.61 mmol), and the resulting solution was chilled to 0° C. Triflic anhydride (3.59 mL, 21.28 mmol) was added slowly by syringe, and the reaction mixture was stirred at 0° C. for 1.5 hours. one half equivalent of triflic anhydride was then added and the reaction mixture was allowed to gradually warm to room temperature over a 16 hour period. The solvents were then removed by rotary evaporation, and the residue was taken up in 200 mL of 1:1 EtOAc and 1N HCl. The organics were washed once more with 1N HCl (100 mL), dried over MgSO4 ,and concentrated. Flash chromatography (hexane to 15% EtOAc/hexane) afforded the desired product as a white solid (3.98 g, 75%).

reactant | 6-cyano-2-naphthol | 17.73 mmol, 3.00 g | C(#N)C=1C=C2C=CC(=CC2=CC1)O | C11H7NO
reactant | pyridine | 88.61 mmol, 7.17 mL | N1=CC=CC=C1 | C5H5N
reactant | Triflic anhydride | 21.28 mmol, 3.59 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | triflic anhydride | one half equivalent | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichlorornethane | 35 mL | ClCCl | CH2Cl2
product | Trifluoromethanesulfonic acid 6-cyano -naphthalen-2-yl ester | 3.98 g, 75% | C(#N)C=1C=C2C=CC(=CC2=CC1)OS(=O)(=O)C(F)(F)F | C12H6F3NO3S
